Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Mr. ___ is a ___ y.o. M with hematuria, BPH, HTN c/b
subacute L. frontoparietal stroke, extensive small vessel
disease, and suspected amyloid angiopathy, who is was referred
from his PCP for anemia ___ cystoscopy at ___ that was
c/b acute hypercapnic resp failure from over-sedation. 

The following information was obtained from his PCP, pt and HCP,
OMR, and St E records:

___ ___ Course
=============================================
Pt was admitted to ___. E on ___ for hematuria, underwent
cystoscopy on ___ that revealed "diffuse clotting." Per St E
records, "cystoscopy was challenging bc of ongoing bleeding
likely from the prostate which is significantly enlarged and
irregular...decision was made to conclude the procedure and use
gentle traction with catheter to tamponade the prostate and 
start
pt on finasteride." In the PACU, pt was in acute hypercapnic
respiratory failure due to oversedation (received 2mg dilaudid,
3mg Haldol and precede gtt ___ procedure) and was subsequently
admitted to MICU for BiPAP. He improved and hematuria resolved 
at
time of discharge (he was weaned off of CBI by Urology), and
discharged on finasteride 5mg qd and oxybutynin 5mg tid. Course
was also c/b SVT which resolved after receiving IVF and IV
Lopressor, as well as fever which was attributed to UTI vs.
aspiration pneumonitis (completed 7-day course). Additionally,
found to have 2.5cm hypodense lesion in medial aspect of
pancreatic head on ___ CT abd/pelvis. CT abd/pelvis also notable
moderate enlargement of prostate gland w/ significant impression
at bladder base. Discharge Hgb: 8.9 

Since discharge, he has not experienced any additional 
hematuria,
foley was removed last ___ by his urologist in
clinic. He was cleared by urology, cleared by ___ last week. 
Since
that time, he had been voiding clear yellow urine without
difficulty. He saw his PCP on ___ - at this time, PCP was
concerned about Hgb 8.1/Hct 26 and felt this was low, given his
age. Prior to this, PCP says his ___ was 12.4 in ___. PCP says
___ drawn on ___ was 7.8, at which time RN told pt to
report to ED for blood transfusion. Re: his pancreatic mass, PCP
says he was scheduled to get outpatient MRCP today. 

___ ED Course
===============
In the ED initial VS were 98.4 92 145/79 18 100% RA. Exam was
notable for brown, guaiac negative stool. Basic labs were
obtained and were notable for Hgb 7.6, which is down from Hgb 
8.9
on discharge from ___ on ___. Repeat Hgb was
obtained prior to admission to the floor and was 8.4. He 
received
1U pRBC in ED. 

Urology was consulted and recommended:  
"-bladder scan to ensure emptying, if voiding without clots then
leave without catheter.  
-If he develops clots or if PVR >250cc, then replace catheter
(can page urology for that). 
-If crit continues to drop and/or he develops gross hematuria,
page urology and CT scan  
-Admit to medicine, follow up with urology in the AM". 

___ Medicine Floor
=====================
Upon arrival to the floor, pt confirms story above. He is not
having any urinary pain or hematuria. He has been voiding clear
yellow urine.  Denies abd pain, nausea, vomiting, hematochezia,
dizziness, shortness of breath, palpitations or fatigue.
Additionally, denies recent weight loss, fevers, chills, night
sweats. 

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.  
 
Past Medical History:
Hematuria, BPH, HTN c/b subacute L. frontoparietal stroke,
extensive small vessel disease, and suspected amyloid angiopathy
 
Social History:
___
Family History:
No family history of hematuria, bladder cancer, or other 
cancers.
No history of heart disease, HTN, diabetes to his knowledge. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: 98.1F, BP 141/71, HR 83, RR 18, SpO2 100 on RA 
GENERAL: NAD.   
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.    
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.   
ABDOMEN: Soft, non distended, non-tender to deep palpation in 
all
four quadrants. No organomegaly.  
EXTREMITIES: Warm, non-pitting edema which pt says is baseline.  

NEUROLOGIC: AOx4. No focal neurologic deficits. 
 
DISCHARGE PHYSICAL EXAM:  
98.3 PO 115 / 68 L Sitting 75 18 100 Ra 
GENERAL: NAD.   
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.    
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.   
ABDOMEN: Soft, non distended, non-tender to deep palpation in 
all
four quadrants. No organomegaly.  
EXTREMITIES: Warm, non-pitting edema which pt says is baseline.  

NEUROLOGIC: AOx4. No focal neurologic deficits. 
 
Pertinent Results:
ADMISSION LABS
___ 04:31PM BLOOD WBC-6.3 RBC-3.21* Hgb-7.6* Hct-26.3* 
MCV-82 MCH-23.7* MCHC-28.9* RDW-16.7* RDWSD-49.3* Plt ___
___ 08:46PM BLOOD WBC-6.4 RBC-3.13* Hgb-7.5* Hct-25.5* 
MCV-82 MCH-24.0* MCHC-29.4* RDW-16.6* RDWSD-48.7* Plt ___
___ 05:32AM BLOOD WBC-4.7 RBC-3.21* Hgb-7.7* Hct-26.0* 
MCV-81* MCH-24.0* MCHC-29.6* RDW-16.6* RDWSD-48.3* Plt ___
___ 11:35AM BLOOD WBC-5.0 RBC-3.44* Hgb-8.4* Hct-28.3* 
MCV-82 MCH-24.4* MCHC-29.7* RDW-16.4* RDWSD-48.4* Plt ___

FE STUDIES
___ 11:35AM BLOOD calTIBC-247* Ferritn-25* TRF-190*
___ 11:35AM BLOOD Iron-19*

DISCHARGE LABS

___ 08:08AM BLOOD WBC-4.2 RBC-3.38* Hgb-8.3* Hct-27.5* 
MCV-81* MCH-24.6* MCHC-30.2* RDW-16.7* RDWSD-49.9* Plt ___
___ 08:08AM BLOOD Hypochr-1+* Anisocy-1+* Poiklo-1+* 
Macrocy-1+* Microcy-1+* Schisto-1+* RBC Mor-SLIDE REVI
___ 08:08AM BLOOD Glucose-110* UreaN-8 Creat-1.1 Na-144 
K-4.5 Cl-110* HCO___ AnGap-11

MICRODATA
___ URINE CULTURE:
URINE CULTURE (Preliminary): ENTEROCOCCUS SP.. 10,000-100,000 
CFU/mL. 
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
======================
[]Received 1 dose IV iron for ___ will need second dose as 
outpatient (preferably at f/u appointment). Discontinued PO 
iron.
[] ___, pt was found to have 2.5cm 
hypodense lesion in medial aspect of pancreatic head on ___ CT 
abd/pelvis. He will need further outpatient imaging to 
characterize this mass.
[] Restarted home Amlodipine (had not been able to refill 
prescription outpatient).
[] Has inappropriate retic count, ___, no evidence of bleeding 
in urine or grossly in stool. Please ensure age-appropriate 
cancer screening as outpatient.
[] Oxybutinin discontinued as it was started for bladder spasms 
around foley catheter which has since been removed. 

PATIENT SUMMARY:
==================
Mr. ___ is a ___ y.o. M with hematuria, BPH, HTN c/b
subacute L. frontoparietal stroke, extensive small vessel
disease, and suspected amyloid angiopathy, who is was referred
from his PCP for anemia ___ cystoscopy at ___ that was
c/b acute hypercapnic resp failure from over-sedation. He
received 1U pRBC in ED and Hgb has been stable ___ since 
presenting; asymptomatic.

ACUTE ISSUES:  
=============  
#Iron Deficiency Anemia 
Referred to ED from PCP office for ___ 8.1 (___), given 
age and drop from last discharge at ___ with Hgb 8.9 
(___). ___ ED Hgb 7.6, improved to ___ ___ 1U pRBC in 
ED. Stool guaiac negative in ED, pt denied any sx of hematuria, 
hematochezia or melena. Hgb at discharge was : 8.3. While recent 
hematuria undoubtedly contributed to recent drop in Hct, it is 
unclear what underlying etiology of chronic anemia is. He was 
noted to be iron deficient and also to have inappropriate 
reticulocyte count suggesting possible component of marrow 
suppression. No evidence of hemolysis with normal haptoglobin, 
LDH, smear (normal after repeated on blood prior to 
transfusion).

#Asymptomatic bacteriuria
ED urine culture ___ grew ENTEROCOCCUS SP. (10,000-100,000 
CFU/mL). Patient was asymptomatic with no dysuria, no frequency, 
no symptoms of urinary retention or reports of suprapubic 
discomfort. Not treated given asymptomatic.

CHRONIC ISSUES:  
===============
# Hematuria
Pt did not present with any sx of urinary retention or hematuria 
at discharge. About ~5 days prior to presentation, foley 
catheter was removed in clinic (initially placed during last 
inpatient hospitalization). Q6 hour bladder scans inpatient 
revealed no post void residuals, no urinary retention. He was 
seen by Urology in ED, who recommended no intervention at this 
time given that he was asx. He was continued on home 
finasteride. Oxybutinin discontinued as no bladder spasms in the 
setting of recent foley catheter discontinuation. 

#HTN
BP 141/71 on admission. Previously on amlodipine, but this was 
stopped by pt prior to ___ hospitalization and never 
re-started. Per PCP, pt should restart this medication; however, 
daughter says this was never refilled. Amlodipine 5mg was 
restarted at discharge. 

#Pancreatic Mass
At last ___ hospitalization, pt was found to have 
2.5cm
hypodense lesion in medial aspect of pancreatic head on ___ CT
abd/pelvis. He will need further outpatient imaging to 
characterize this mass.
  
CORE MEASURES  
=============  
#CODE: Full Code (confirmed w/pt and HCP) 
#CONTACT: ___ (wife), ___ (daughter) -
___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. ___ (ferrous sulfate) 325 mg (65 mg iron) oral BID 
3. Oxybutynin 5 mg PO TID 
4. Polyethylene Glycol 17 g PO DAILY 
5. Senna 8.6 mg PO QHS 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
2.  Finasteride 5 mg PO DAILY  
3.  Polyethylene Glycol 17 g PO DAILY  
4.  Senna 8.6 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Anemia

Secondary Diagnoses:
Urinary retention
Hematuria
Hypertension
Pancreatic mass 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Why was I hospitalized?
–You came to the hospital for a low red blood cell count 
(Anemia).

What happened while I was in the hospital?
–You received blood transfusions for your low red blood cell 
count. 
–Our urology doctors saw ___.  They felt you did not need a 
catheter at this time.
-Your red blood cell count improved and you were able to leave 
the hospital. 

Which I do want to leave the hospital?
–Please follow-up with your primary care doctor.
–You will need to follow-up with a urologist. 
-You will need to get repeat imaging of your pancreas. #### 
–Please keep all your appointments and take all of your 
medications as directed.

Sincerely,
Your ___ Team 
 
Followup Instructions:
___